US06949551B2
Step 1: 3-chloro-2,5-dihydroxybenzoic acid
9.95 g of methyl 3-chloro-2-hydroxy-5-methoxybenzoate were taken up in 300 ml of hydrobromic acid (48% strength in water). 1.79 g of red phosphorus were added, and the mixture was then stirred at 85° C. for 15 hours. After cooling, the reaction mixture was poured into about 1 liter of ice-cold water and extracted with ethyl acetate. The crude product obtained after drying and concentration of the ethyl acetate phase was used for the next step without further purification.

reactant | methyl 3-chloro-2-hydroxy-5-methoxybenzoate | 9.95 g | ClC=1C(=C(C(=O)OC)C=C(C1)OC)O | C9H9ClO4
solvent | hydrobromic acid | 300 ml | Br | BrH
product | 3-chloro-2,5-dihydroxybenzoic acid | ClC=1C(=C(C(=O)O)C=C(C1)O)O | C7H5ClO4
